US08937068B2
Manufacture of 1-ethyl-3-[3-(3-hydroxy-phenyl)-pyrido[2,3-b]pyrazine-6-yl]-urea (Conversion According to Diagram 6)
100 mg 1-(3-chloropyrido[2,3-b]pyrazine-6-yl)-3-ethyl-urea (0.40 mmol) was presented in a dimethylformamide/water mixture under nitrogen as protective gas. Then 60.3 mg 3-hydroxyphenyl boronic acid (0.44 mmol), 126 mg sodium carbonate (1.19 mmol) and 23 mg tetrakis(triphenylphosphine) palladium(0) (0.02 mmol) were added. The reaction mixture was stirred at 90° C. for 4 hours. The mixture was filled with water for reprocessing and the deposited solid rewashed with dichloromethane. The resulting raw product was stirred again in warm DCM, filtered off and dried. A yellow solid was obtained.

reactant | 1-(3-chloropyrido[2,3-b]pyrazine-6-yl)-3-ethyl-urea | 0.40 mmol, 100 mg | ClC1=CN=C2C(=N1)N=C(C=C2)NC(=O)NCC | C10H10ClN5O
reactant | dimethylformamide water | CN(C=O)C.O
reactant | 3-hydroxyphenyl boronic acid | 0.44 mmol, 60.3 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | sodium carbonate | 1.19 mmol, 126 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-ethyl-3-[3-(3-hydroxy-phenyl)-pyrido[2,3-b]pyrazine-6-yl]-urea | C(C)NC(=O)NC=1C=CC=2C(=NC(=CN2)C2=CC(=CC=C2)O)N1 | C16H15N5O2
